US07919488B2
1-(4-methoxybenzyl)-1H-1,2,3-triazole-4-carboxylic acid
To a mixture of ethyl 1-(4-methoxybenzyl)-1H-1,2,3-triazole-4-carboxylate (190.0 g, 0.73 mol) and MeOH/H2O (350 mL/100 mL) was added LiOH.H2O (42.0 g, 0.97 mol) in portions at 0° C. and the reaction mixture was stirred at room temperature overnight. The mixture was evaporated, the residue was diluted with water (250 mL), then extracted with Et2O (3×75 mL) to remove neutral impurities. The aqueous layer was adjusted to pH=3-4 with conc. HCl and the precipitate was filtered to afford the title compound (160 g, 94.0%) as a white solid.

reactant | ethyl 1-(4-methoxybenzyl)-1H-1,2,3-triazole-4-carboxylate | 0.73 mol, 190.0 g | COC1=CC=C(CN2N=NC(=C2)C(=O)OCC)C=C1 | C13H15N3O3
reactant | LiOH.H2O | 0.97 mol, 42.0 g | O[Li].O
solvent | MeOH H2O | 350 mL | CO.O
product | 1-(4-methoxybenzyl)-1H-1,2,3-triazole-4-carboxylic acid | 160 g, 94.0% | COC1=CC=C(CN2N=NC(=C2)C(=O)O)C=C1 | C11H11N3O3
